US08227461B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)-methoxy)-N-pyrrolidin-1-yl-nicotinamide
As described for example 8d, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (200 mg, 0.66 mmol) was converted, using N-aminopyrrolidine instead of N-aminomorpholine, to the title compound (40 mg, 17%) which was obtained as an off white solid. MS: m/e=359.2 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.66 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | N-aminopyrrolidine | NN1CCCC1 | C4H10N2
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)-methoxy)-N-pyrrolidin-1-yl-nicotinamide | 40 mg, 17% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NN2CCCC2)C=C1)C | C19H26N4O3
